*
*********************************************************
*POSITIVE EDGE TRIGGERED DFF
*********************************************************
.SUBCKT DFF_ABM D CLK Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
E_NOT_ABM2 D1 0 VALUE {IF((V(D) >= VIH), VOL, VOH)}
X1 D CLK1 D1 Q1 Q1BAR  DFF_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 Q1 CLK Q1BAR Q QBAR DFF_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS DFF_ABM
*
*PORT_ORDER: 	   IN1	CLK	IN2	OUT1	OUT2    
.SUBCKT DFF_ABM1    1	 2	3	4	5
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 6 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 7 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 8 0 VALUE {IF(((V(6)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM4 9 0 VALUE {IF(((V(4)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
RM	8	4	1m
RM1	9	5	1m
CQ	4	0	1u  IC=0.0
RQ	4	0	1meg
CQB	5	0	1u  IC={ VOH }
RQB	5	0	1meg
.ENDS DFF_ABM1
*
*********************************************************
*POSITIVE EDGE TRIGGERED DFF WITH PRESET AND CLEAR
*********************************************************
.SUBCKT DFFPC_ABM D CLK CLR PRE Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
E_NOT_ABM2 D1 0 VALUE {IF((V(D) >= VIH), VOL, VOH)}
E_NOT_ABM3 PRE1 0 VALUE {IF((V(PRE) >= VIH), VOL, VOH)}
E_NAND_ABM1 CLR1 0 VALUE {IF(((V(PRE1)>= VIH) & (V(CLR)>= VIH)), VOL, VOH)}
X1 D CLK1 D1 PRE1 CLR1 Q1 Q1BAR  DFFPC_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 Q1 CLK Q1BAR PRE1 CLR1 Q QBAR DFFPC_ABM2 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS DFFPC_ABM
*
*PORT_ORDER: 	   IN1	CLK	IN2	PRE	CLR	OUT1	OUT2    
.SUBCKT DFFPC_ABM1  1	 2	3	4	5	6	7	
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 8 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM2 9 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH) & (V(4)>= VIH)), VOL, VOH)}
E_NAND_ABM3 10 0 VALUE {IF(((V(4)>= VIH) & (V(8)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM4 11 0 VALUE {IF(((V(5)>= VIH) & (V(9)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
RM	10	6	1m
RM1	11	7	1m
CQ	6	0	1u  IC=0.0
RQ	6	0	1meg   
CQB	7	0	1u  IC={ VOH }
RQB	7	0	1meg
.ENDS DFFPC_ABM1
*
*PORT_ORDER: 	   IN1	CLK	IN2	PRE	CLR	OUT1	OUT2    
.SUBCKT DFFPC_ABM2  1	 2	3	4	5	6	7
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 8 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 9 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 10 0 VALUE {IF(((V(4)>= VIH) & (V(8)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM4 11 0 VALUE {IF(((V(5)>= VIH) & (V(9)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
RM	10	6	1m
RM1	11	7	1m
CQ	6	0	1u  IC=0.0
RQ	6	0	1meg   
CQB	7	0	1u  IC={ VOH }
RQB	7	0	1meg
.ENDS DFFPC_ABM2
***********************************************************
*POSITIVE EDGE TRIGGERED DFF WITH RESET AND SET
*********************************************************
.SUBCKT DFFRS_ABM D CLK RST SET Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
E_NOT_ABM2 D1 0 VALUE {IF((V(DIN) >= VIH), VOL, VOH)}
X1 D SET RST DIN SET_RESET_DFFRS PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 DIN CLK1 D1 Q1 Q1BAR  DFFRS_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X3 Q1 CLK Q1BAR Q QBAR DFFRS_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS DFFRS_ABM
*
*PORT_ORDER: 		IN1   SET     RST     OUT    
.SUBCKT SET_RESET_DFFRS 1	2	3	4
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 5 0 VALUE {IF((V(3) >= VIH), VOL, VOH)}
E_OR_ABM2 6 0 VALUE {IF(((V(1) < VIH) & ( V(2) < VIH)), VOL, VOH)}
E_AND_ABM3 4 0 VALUE {IF(((V(5)>= VIH) & (V(6)>= VIH)),VOH,VOL)}
.ENDS SET_RESET_DFFRS
*
*PORT_ORDER: 	   IN1	CLK	IN2	OUT1	OUT2    
.SUBCKT DFFRS_ABM1    1	 2	3	4	5
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 6 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 7 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 8 0 VALUE {IF(((V(6)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM4 9 0 VALUE {IF(((V(4)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
RM	8	4	1m
RM1	9	5	1m
CQ	4	0	1u  IC=0.0
RQ	4	0	1meg
CQB	5	0	1u  IC={ VOH }
RQB	5	0	1meg
.ENDS DFFRS_ABM1
*
*********************************************************
*POSITIVE EDGE TRIGGERED RSFF
*********************************************************
.SUBCKT RSFF_ABM S CLK R Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
X1 S CLK1 R Q1 Q1BAR  RSFF_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 Q1 CLK Q1BAR Q QBAR RSFF_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS RSFF_ABM
*
*PORT_ORDER: 	    IN1	CLK    IN2     OUT1    OUT2    
.SUBCKT RSFF_ABM1    1	 2	3	4	5
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 6 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 7 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 8 0 VALUE {IF(((V(6)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM4 9 0 VALUE {IF(((V(4)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
RM	8	4	1m
RM1	9	5	1m
CQ	4	0	1u  IC=0.0
RQ	4	0	1meg
CQB	5	0	1u  IC={ VOH }
RQB	5	0	1meg
.ENDS RSFF_ABM1
*
*********************************************************
*POSITIVE EDGE TRIGGERED RSFF WITH PRESET AND CLEAR
*********************************************************
.SUBCKT RSFFPC_ABM S CLK R CLR PRE Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
E_NOT_ABM2 PRE1 0 VALUE {IF((V(PRE) >= VIH), VOL, VOH)}
E_NAND_ABM1 CLR1 0 VALUE {IF(((V(PRE1)>= VIH) & (V(CLR)>= VIH)), VOL, VOH)}
X1 S CLK1 R PRE1 CLR1 Q1 Q1BAR  RSFFPC_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 Q1 CLK Q1BAR PRE1 CLR1 Q QBAR RSFFPC_ABM2 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS RSFFPC_ABM
*
*PORT_ORDER:		IN1	CLK	IN2	PRE	CLR	OUT1	OUT2    
.SUBCKT RSFFPC_ABM1	1	 2	3	4	5	6	7
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 8 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM2 9 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH) & (V(4)>= VIH)), VOL, VOH)}
E_NAND_ABM3 10 0 VALUE {IF(((V(4)>= VIH) & (V(8)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM4 11 0 VALUE {IF(((V(5)>= VIH) & (V(9)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
RM	10	6	1m
RM1	11	7	1m
CQ	6	0	1u  IC=0.0
RQ	6	0	1meg   
CQB	7	0	1u  IC={ VOH }
RQB	7	0	1meg
.ENDS RSFFPC_ABM1
*

*PORT_ORDER:		IN1	CLK	IN2	PRE	CLR	OUT1	OUT2    
.SUBCKT RSFFPC_ABM2	1	 2	3	4	5	6	7
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 8 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 9 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 10 0 VALUE {IF(((V(4)>= VIH) & (V(8)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM4 11 0 VALUE {IF(((V(5)>= VIH) & (V(9)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
RM	10	6	1m
RM1	11	7	1m
CQ	6	0	1u  IC=0.0
RQ	6	0	1meg   
CQB	7	0	1u  IC={ VOH }
RQB	7	0	1meg
.ENDS RSFFPC_ABM2
*
*********************************************************
*POSITIVE EDGE TRIGGERED TFF
*********************************************************
.SUBCKT TFF_ABM T CLK Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
X1 QBAR T CLK1 T Q Q1 Q1BAR  TFF_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 Q1 CLK Q1BAR Q QBAR TFF_ABM2 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS TFF_ABM
*
*PORT_ORDER: 	   IN1	IN2	CLK	IN3	IN4	OUT1	OUT2    
.SUBCKT TFF_ABM1    1	 2	3	4	5	6	7	
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 8 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM2 9 0 VALUE {IF(((V(3)>= VIH) & (V(4)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM3 10 0 VALUE {IF(((V(8)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM4 11 0 VALUE {IF(((V(9)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
RM	10	6	1m
RM1	11	7	1m
CQ	6	0	1u  IC=0.0
RQ	6	0	1meg
CQB	7	0	1u  IC={ VOH }
RQB	7	0	1meg
.ENDS TFF_ABM1
*
*PORT_ORDER: 	   IN1	CLK	IN2	OUT1	OUT2    
.SUBCKT TFF_ABM2    1	 2	3	4	5
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 6 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 7 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 8 0 VALUE {IF(((V(6)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM4 9 0 VALUE {IF(((V(4)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
RM	8	4	1m
RM1	9	5	1m
CQ	4	0	1u  IC=0.0
RQ	4	0	1meg
CQB	5	0	1u  IC={ VOH }
RQB	5	0	1meg
.ENDS TFF_ABM2
*
*********************************************************
*POSITIVE EDGE TRIGGERED TFF WITH PRESET AND CLEAR
*********************************************************
.SUBCKT TFFPC_ABM T CLK CLR PRE Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
E_NOT_ABM2 PRE1 0 VALUE {IF((V(PRE) >= VIH), VOL, VOH)}
E_NAND_ABM1 CLR1 0 VALUE {IF(((V(PRE1)>= VIH) & (V(CLR)>= VIH)), VOL, VOH)}
X1 QBAR T CLK1 T Q PRE1 CLR1 Q1 Q1BAR  TFFPC_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 Q1 CLK Q1BAR PRE1 CLR1 Q QBAR TFFPC_ABM2 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS TFFPC_ABM
*
*PORT_ORDER: 	   IN1	IN2	CLK	IN3	IN4	IN5	IN6	OUT1	OUT2    
.SUBCKT TFFPC_ABM1  1	 2	3	4	5	6	7	8	9	
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 10 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH) & (V(3)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM2 11 0 VALUE {IF(((V(3)>= VIH) & (V(4)>= VIH) & (V(5)>= VIH) & (V(6)>= VIH)) , VOL, VOH)}
E_NAND_ABM3 12 0 VALUE {IF(((V(6)>= VIH) & (V(10)>= VIH) & (V(9)>= VIH)), VOL, VOH)}
E_NAND_ABM4 13 0 VALUE {IF(((V(7)>= VIH) & (V(11)>= VIH) & (V(8)>= VIH)), VOL, VOH)}
RM	12	8	1m
RM1	13	9	1m
CQ	8	0	1u  IC=0.0
RQ	8	0	1meg
CQB	9	0	1u  IC={ VOH }
RQB	9	0	1meg
.ENDS TFFPC_ABM1
*
*PORT_ORDER: 	   IN1	CLK	IN2	PRE	CLR	OUT1	OUT2    
.SUBCKT TFFPC_ABM2  1	 2	3	4	5	6	7
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 8 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 9 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 10 0 VALUE {IF(((V(4)>= VIH) & (V(8)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM4 11 0 VALUE {IF(((V(5)>= VIH) & (V(9)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
RM	10	6	1m
RM1	11	7	1m
CQ	6	0	1u  IC=0.0
RQ	6	0	1meg   
CQB	7	0	1u  IC={ VOH }
RQB	7	0	1meg
.ENDS TFFPC_ABM2
*
*********************************************************
*POSITIVE EDGE TRIGGERED JKFF
*********************************************************
.SUBCKT JKFF_ABM J CLK K Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
X1 QBAR J CLK1 K Q Q1 Q1BAR  JKFF_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 Q1 CLK Q1BAR Q QBAR JKFF_ABM2 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS JKFF_ABM
*
*PORT_ORDER: 	   IN1	IN2	CLK	IN3	IN4	OUT1	OUT2    
.SUBCKT JKFF_ABM1    1	 2	3	4	5	6	7	
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 8 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM2 9 0 VALUE {IF(((V(3)>= VIH) & (V(4)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM3 10 0 VALUE {IF(((V(8)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM4 11 0 VALUE {IF(((V(9)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
RM	10	6	1m
RM1	11	7	1m
CQ	6	0	1u  IC=0.0
RQ	6	0	1meg
CQB	7	0	1u  IC={ VOH }
RQB	7	0	1meg
.ENDS JKFF_ABM1
*
*PORT_ORDER: 	   IN1	CLK	IN2	OUT1	OUT2    
.SUBCKT JKFF_ABM2    1	 2	3	4	5
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 6 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 7 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 8 0 VALUE {IF(((V(6)>= VIH) & (V(5)>= VIH)), VOL, VOH)}
E_NAND_ABM4 9 0 VALUE {IF(((V(4)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
RM	8	4	1m
RM1	9	5	1m
CQ	4	0	1u  IC=0.0
RQ	4	0	1meg
CQB	5	0	1u  IC={ VOH }
RQB	5	0	1meg
.ENDS JKFF_ABM2
*
*********************************************************
*POSITIVE EDGE TRIGGERED JKFF WITH PRESET AND CLEAR
*********************************************************
.SUBCKT JKFFPC_ABM J CLK K CLR PRE Q QBAR PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NOT_ABM1 CLK1 0 VALUE {IF((V(CLK) >= VIH), VOL, VOH)}
E_NOT_ABM2 PRE1 0 VALUE {IF((V(PRE) >= VIH), VOL, VOH)}
E_NAND_ABM1 CLR1 0 VALUE {IF(((V(PRE1)>= VIH) & (V(CLR)>= VIH)), VOL, VOH)}
X1 QBAR J CLK1 K Q PRE1 CLR1 Q1 Q1BAR  JKFFPC_ABM1 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
X2 Q1 CLK Q1BAR PRE1 CLR1 Q QBAR JKFFPC_ABM2 PARAMS: VIH={VIH} VOH={VOH} VOL={VOL} 
.ENDS JKFFPC_ABM
*
*PORT_ORDER: 	   IN1	IN2	CLK	IN3	IN4	IN5	IN6	OUT1	OUT2    
.SUBCKT JKFFPC_ABM1    1	 2	3	4	5	6	7	8	9	
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 10 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH) & (V(3)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM2 11 0 VALUE {IF(((V(3)>= VIH) & (V(4)>= VIH) & (V(5)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
E_NAND_ABM3 12 0 VALUE {IF(((V(6)>= VIH) & (V(10)>= VIH) & (V(9)>= VIH)), VOL, VOH)}
E_NAND_ABM4 13 0 VALUE {IF(((V(7)>= VIH) & (V(11)>= VIH) & (V(8)>= VIH)), VOL, VOH)}
RM	12	8	1m
RM1	13	9	1m
CQ	8	0	1u  IC=0.0
RQ	8	0	1meg
CQB	9	0	1u  IC={ VOH }
RQB	9	0	1meg
.ENDS JKFFPC_ABM1
*
*PORT_ORDER: 	   IN1	CLK	IN2	PRE	CLR	OUT1	OUT2    
.SUBCKT JKFFPC_ABM2  1	 2	3	4	5	6	7
+PARAMS: VIH=1.5 VOH=5.0 VOL=0.0 
E_NAND_ABM1 8 0 VALUE {IF(((V(1)>= VIH) & (V(2)>= VIH)), VOL, VOH)}
E_NAND_ABM2 9 0 VALUE {IF(((V(2)>= VIH) & (V(3)>= VIH)), VOL, VOH)}
E_NAND_ABM3 10 0 VALUE {IF(((V(4)>= VIH) & (V(8)>= VIH) & (V(7)>= VIH)), VOL, VOH)}
E_NAND_ABM4 11 0 VALUE {IF(((V(5)>= VIH) & (V(9)>= VIH) & (V(6)>= VIH)), VOL, VOH)}
RM	10	6	1m
RM1	11	7	1m
CQ	6	0	1u  IC=0.0
RQ	6	0	1meg   
CQB	7	0	1u  IC={ VOH }
RQB	7	0	1meg
.ENDS JKFFPC_ABM2
*